Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is an ___ yo woman with h/o HTN, HLD, depression who 
presents with persistent abdominal pain, referred for direct 
admission by PCP.

Patient reports she was in her usual state of health until 
___ evening when she developed intense bilateral abdominal 
pain. As it worsened throughout the evening, she presented to 
the ED on ___. There, she had a CT abd/pelvis that 
showed nonspecific mesenteritis and she was discharged to take 
ibuprofen. She reports she was taking it every 6 hours as 
directed but her pain has persisted. She says the left-sided 
pain has resolved, but the right-sided pain is still there. It 
hurts mostly with movement, such as when she gets up out of bed 
or when she takes big breaths. It does not hurt at rest and does 
not hurt when she is sitting. 

The pain is not associated with food intake, she denies any 
nausea or vomiting, denies any diarrhea, she denies any fevers 
or chills. There is no radiation of the pain to the pelvis or to 
the back. She says over the past couple of months, she has felt 
tired, but today she feels rather normal (other than the pain). 
She denies any weakness. Denies any changes in her stool. She 
has never had pain like this before.

She saw her PCP in ___ today and was referred in for 
observation given persistent symptoms.
 
Past Medical History:
ARTHRALGIAS, DRY MOUTH, DRY EYES   
DEPRESSION   
HYPERCHOLESTEROLEMIA   
HYPERTENSION   
MULTINODULAR GOITER   
POSITIVE PPD ___ 
THROMBOCYTOPENIA   
URINARY INCONTINENCE   
BASAL CELL CARCINOMA   
PANCREATIC CYST   
BACK PAIN   
SCIATICA 
 
Social History:
___
Family History:
Daughter     BREAST CANCER   daughter with met breast ca 
Daughter     BRAIN TUMOR    
Mother ___ ___     
Brother      ATRIAL FIBRILLATION   STROKE   

 
Physical Exam:
Admission exam:
VS: T 97.6 PO  BP 132/62  HR 55  RR 18  O2 sat 99%RA 
General: Alert, oriented, no acute distress, ambulating well
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck
supple
CV: Regular rate and rhythm, normal S1 + S2, there is a soft
crescendo/decrescendo murmur best heard at the right sternal
border
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, there is some point TTP in the RUQ, though
___ sign is negative, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no edema  
Neuro: CNII-XII intact
Access: will establish PIV
 
Pertinent Results:
Admission labs:
___ 07:00PM BLOOD WBC-8.1 RBC-4.59 Hgb-13.5 Hct-39.8 MCV-87 
MCH-29.4 MCHC-33.9 RDW-12.8 RDWSD-40.5 Plt ___
___ 07:00PM BLOOD Glucose-96 UreaN-19 Creat-0.7 Na-137 
K-4.3 Cl-100 HCO3-25 AnGap-16
___ 07:00PM BLOOD ALT-10 AST-15 AlkPhos-100 TotBili-0.9
___ 07:00PM BLOOD Calcium-9.3 Phos-4.2 Mg-2.4
___ 07:00PM BLOOD CRP-81.6*

Discharge labs:

___ 07:34AM BLOOD WBC-5.5 RBC-4.60 Hgb-13.5 Hct-40.2 MCV-87 
MCH-29.3 MCHC-33.6 RDW-12.7 RDWSD-40.0 Plt ___
___ 07:34AM BLOOD Glucose-89 UreaN-14 Creat-0.6 Na-141 
K-4.0 Cl-104 HCO3-26 AnGap-15
___ 07:34AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.2
 
Brief Hospital Course:
Ms. ___ is an ___ yo woman with h/o HTN, HLD, depression who 
presents with persistent abdominal pain, referred for direct 
admission by PCP.

# Abdominal pain-?non-specific mesenteritis
Unclear etiology, has evidence of nonspecific mesenteritis on 
initial CT ___ now with improving, but persistent symptoms. 
Ddx is broad at this time, including untreated mesenteritis that 
is worsening, MSK-related pain, constipation, could be GB/liver 
disorder but given relatively normal LFTs 2 days ago, less 
likely. U/A unrevealing and recent ucx negative. GI was 
consulted and not ___ certain as to etiology of non-specific 
mesenteritis. In any event, pt's symptoms much improved with 
conservative measures and she was tolerating a regular diet by 
the day of discharge. The GI service recommends outpt f/u in ___ 
weeks with consideration of repeat CT scan to evaluate 
mesenteritis at that time. If symptoms persist, then will 
consider need to initiate prednisone. 

# HTN: cont'd home amlodipine, chlorthalidone
# HLD: cont'd home atorvastatin
# GERD: cont'd outpt regimen. 
# insomnia: hold zolpidem in house, trazodone as needed
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 100 mg PO QHS 
2. Magnesium Oxide 400 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Zolpidem Tartrate 5 mg PO QHS 
5. Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY 
6. amLODIPine 5 mg PO BID 
7. Atorvastatin 20 mg PO QPM 
8. Lansoprazole Oral Disintegrating Tab 30 mg Other DAILY 
9. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
10. Escitalopram Oxalate 10 mg PO DAILY 
11. Chlorthalidone 37.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
take only as directed
you may purchase over the counter   
2.  amLODIPine 5 mg PO BID  
3.  Atorvastatin 20 mg PO QPM  
4.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY  
5.  Chlorthalidone 37.5 mg PO DAILY  
6.  Escitalopram Oxalate 10 mg PO DAILY  
7.  Fish Oil (Omega 3) 1000 mg PO BID  
8.  Gabapentin 100 mg PO QHS  
9.  Lansoprazole Oral Disintegrating Tab 30 mg Other DAILY  
10.  Magnesium Oxide 400 mg PO DAILY  
11.  Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY  
12.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
non specific Mesenteric enteritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of abdominal pain. You were 
seen by the gastroenterology team who recommended an outpatient 
follow up appointment in a few weeks to ensure that your 
symptoms have improved. You may need a repeat CT scan at that 
time. 
 
Followup Instructions:
___